**************************************************
* Manufacturer: 		Wurth Elektronik
* Kinds:			 SMD Common Mode Line Filter
* Matchcode: 		WE-SLM
* Library Type:		LTspice
* Version: 		rev18a
* Created/modified by:	Fredo Huang
* Date and Time   :		2018-01-03
* Team: 			eiSos EDA Service
* Contact: 		libraries@we-online.com
**************************************************
.SUBCKT  6033_744242101_100u  1  2  3  4  PARAMS:
+  L1=59.81u
+  L2=26.14u
+  L3=14.50u
+  L4=9.20u
+  C1=2.24p
+  Rs1=2289.57
+  Rs2=2513.24
+  Rs3=2225.23
+  Rs4=3549.67
+  R2=92.30
+  L5=50n
+  R5=1100
+  C5=0.2p
+  Rdc=0.416
+  dL3=2.5n
+  dC3=2.6pF
+  dR3=250
R_R7  N27348  3  {R2}
C_C10  N26704  N26214  {dC3}
L_L12  N26238  N26246  {dL3}
Kn_K5  L_L5  L_L6  1
R_R2  N25820  N26286  {Rs4}
L_L11  N26246  N25848  {dL3}
L_L32  N26804  N26720  {dL3}
R_R1  N25828  4  {R2}
L_L1  N25820  N26286  {L4}
L_L17  N25840  N26214  {dL3}
R_R12  N26852  3  {Rs1}
C_C14  N26720  N26246  {dC3}
L_L31  N26720  N26716  {dL3}
L_L9  N26840  N26852  {L2}
R_R13  N25840  N25848  {dR3}
C_C1  N25820  N25828  {C1}
Kn_K3  L_L3  L_L9  1
L_L13  N26222  N26230  {dL3}
C_C4  N26804  N26812  {C5}
R_R11  N26840  N26852  {Rs2}
C_C2  N25848  N25820  {C5}
L_L14  N26230  N26238  {dL3}
Kn_K1  L_L1  L_L7  1
L_L8  N26828  N26840  {L3}
C_C13  N26716  N26238  {dC3}
L_L29  N26712  N26708  {dL3}
R_R3  N26286  N26298  {Rs3}
L_L5  N25848  N25820  {L5}
Kn_K10  L_L17  L_L27  1
L_L18  N26214  N26222  {dL3}
C_C3  N26812  N27348  {C1}
Kn_K11  L_L18  L_L28  1
Kn_K15  L_L11  L_L32  1
R_R16  2  N26898  {Rdc}
R_R9  N26812  N26828  {Rs4}
L_L30  N26716  N26712  {dL3}
Kn_K4  L_L4  L_L10  1
Kn_K13  L_L14  L_L30  1
Kn_K12  L_L13  L_L29  1
L_L4  N26310  4  {L1}
Kn_K2  L_L2  L_L8  1
R_R15  N26898  N26804  {dR3}
C_C12  N26712  N26230  {dC3}
R_R5  N26310  4  {Rs1}
L_L3  N26298  N26310  {L2}
Kn_K14  L_L12  L_L31  1
R_R8  N26804  N26812  {R5}
L_L2  N26286  N26298  {L3}
L_L7  N26812  N26828  {L4}
L_L28  N26708  N26704  {dL3}
R_R14  1  N25840  {Rdc}
L_L10  N26852  3  {L1}
R_R6  N25848  N25820  {R5}
L_L27  N26704  N26898  {dL3}
C_C11  N26708  N26222  {dC3}
R_R4  N26298  N26310  {Rs2}
R_R10  N26828  N26840  {Rs3}
L_L6  N26804  N26812  {L5}
R_R17  N26704  N26214  1000g
.ends  6033_744242101_100u
********
.SUBCKT  WE-SLM  1  2  3  4  PARAMS:
+  L1=15.25u
+  L2=7.6u
+  L3=1.97u
+  L4=1.83u
+  C1=0.252p
+  Rs1=565.11
+  Rs2=845.82
+  Rs3=966.67
+  Rs4=603.91
+  R2=11.49
+  Rdc=0.149
+  dL3=1.7n
+  dC3=2.7pF
+  dR3=260
R_R7  N27348  3  {R2}
C_C10  N26704  N26214  {dC3}
R_R2  N25820  N26286  {Rs4}
R_R1  N25828  4  {R2}
L_L1  N25820  N26286  {L4}
L_L17  N25840  N26214  {dL3}
R_R12  N26852  3  {Rs1}
L_L9  N26840  N26852  {L2}
R_R13  N25840  N25820  {dR3}
C_C1  N25820  N25828  {C1}
Kn_K3  L_L3  L_L9  1
L_L13  N26222  N26230  {dL3}
R_R11  N26840  N26852  {Rs2}
L_L14  N26230  N25820  {dL3}
Kn_K1  L_L1  L_L7  1
L_L8  N26828  N26840  {L3}
L_L29  N26712  N26708  {dL3}
R_R3  N26286  N26298  {Rs3}
Kn_K10  L_L17  L_L27  1
L_L18  N26214  N26222  {dL3}
C_C3  N26820  N27348  {C1}
Kn_K11  L_L18  L_L28  1
R_R16  2  N26898  {Rdc}
R_R9  N26820  N26828  {Rs4}
L_L30  N26820  N26712  {dL3}
Kn_K4  L_L4  L_L10  1
Kn_K13  L_L14  L_L30  1
Kn_K12  L_L13  L_L29  1
L_L4  N26310  4  {L1}
Kn_K2  L_L2  L_L8  1
R_R15  N26898  N26820  {dR3}
C_C12  N26712  N26230  {dC3}
R_R5  N26310  4  {Rs1}
L_L3  N26298  N26310  {L2}
L_L2  N26286  N26298  {L3}
L_L7  N26820  N26828  {L4}
L_L28  N26708  N26704  {dL3}
R_R14  1  N25840  {Rdc}
L_L10  N26852  3  {L1}
L_L27  N26704  N26898  {dL3}
C_C11  N26708  N26222  {dC3}
R_R4  N26298  N26310  {Rs2}
R_R10  N26828  N26840  {Rs3}
R_R17  N26704  N26214  1000g
.ends  WE-SLM
********
.SUBCKT  6033_744242110_11u  1  2  3  4
X1  1  2  3  4  WE-SLM  PARAMS:
+  L1=7.45u
+  L2=1.95u
+  L3=1.8u
+  L4=0.85u
+  C1=0.267p
+  Rs1=348
+  Rs2=209.46
+  Rs3=364.54
+  Rs4=512.61
+  R2=9.64
+  Rdc=0.108
+  dL3=2.1n
+  dC3=1.4pF
+  dR3=550
.ends  6033_744242110_11u
********
.SUBCKT  6033_744242220_22u  1  2  3  4
X1  1  2  3  4  WE-SLM  PARAMS:
+  L1=15.25u
+  L2=7.6u
+  L3=1.97u
+  L4=1.83u
+  C1=0.252p
+  Rs1=565.11
+  Rs2=845.82
+  Rs3=966.67
+  Rs4=603.91
+  R2=11.49
+  Rdc=0.149
+  dL3=1.7n
+  dC3=2.7pF
+  dR3=260
.ends  6033_744242220_22u
********
.SUBCKT  6033_744242330_33u  1  2  3  4
X1  1  2  3  4  WE-SLM  PARAMS:
+  L1=22.39u
+  L2=4.32u
+  L3=6.94u
+  L4=1.94u
+  C1=0.194p
+  Rs1=887
+  Rs2=1323.9
+  Rs3=804.8
+  Rs4=834.89
+  R2=7.96
+  Rdc=0.169
+  dL3=1.9n
+  dC3=3.2pF
+  dR3=230
.ends  6033_744242330_33u
********
.SUBCKT  6033_744242471_470u  1  2  3  4
X1  1  2  3  4  WE-SLM  PARAMS:
+  L1=50.33u
+  L2=20.09u
+  L3=110.09u
+  L4=0.26u
+  C1=0.5p
+  Rs1=1620.93
+  Rs2=329.7
+  Rs3=2543.93
+  Rs4=1673.06
+  R2=30.84
+  Rdc=0.383
+  dL3=2.4n
+  dC3=2.83pF
+  dR3=260
.ends  6033_744242471_470u
********
.SUBCKT  6033_744242510_51u  1  2  3  4
X1  1  2  3  4  WE-SLM  PARAMS:
+  L1=40.33u
+  L2=1.09u
+  L3=9.09u
+  L4=0.96u
+  C1=0.331p
+  Rs1=2220.93
+  Rs2=329.7
+  Rs3=2543.93
+  Rs4=1673.06
+  R2=158.84
+  Rdc=0.223
+  dL3=2.2n
+  dC3=4.1pF
+  dR3=200
.ends  6033_744242510_51u